US04053635
Monoethanolamide of 3-methyl-4-phenyl-3-butenoic acid (IIIa).
194 g of 3-methyl-4-phenyl-3-butenoic acid chloride (1 mole), dissolved into 500 ml benzene, are treated at-10° C with 183 g of monoethanolamine (3 moles). The mixture is stirred at 20° C for 3 hours.

reactant | 3-methyl-4-phenyl-3-butenoic acid chloride | 1 mole, 194 g | CC(CC(=O)Cl)=CC1=CC=CC=C1 | C11H11ClO
reactant | at-10 | CC\1CCC(C/C1=C/C=C/2\CCCC3(C2CCC3C(C)/C=C/C(C)C(C)C)C)O | C28H46O
reactant | monoethanolamine | 3 moles, 183 g | C(O)CN | C2H7NO
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-4-phenyl-3-butenoic acid | CC(CC(=O)O)=CC1=CC=CC=C1 | C11H12O2
